US03950353
By the procedure of Example 38, 3-chloromethylisoxazole is converted to 3-(2-chloroethoxymethyl)isoxazole which is then reacted with methyl isothiocyanate to give N-methyl-N'-[2-(3-isoxazolylmethoxy)ethyl]thiourea.

reactant | 3-chloromethylisoxazole | ClCC1=NOC=C1 | C4H4ClNO
reactant | 3-(2-chloroethoxymethyl)isoxazole | ClCCOCC1=NOC=C1 | C6H8ClNO2
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | N-methyl-N'-[2-(3-isoxazolylmethoxy)ethyl]thiourea | CNC(=S)NCCOCC1=NOC=C1 | C8H13N3O2S
